US07566721B2
5-(2-Phenylquinolin-7-yl)-3H-thieno[2,3-d]pyrimidin-4-one
Following the procedure for the one-pot synthesis of 5-(2-phenylquinolin-7-yl)-thieno[2,3-d]pyrimidin-4-ylamine from 1-(2-phenylquinolin-7-yl)-ethanone, but using ethyl cyanoacetate instead of malononitrile, the title compound was obtained as brown solid. 1H NMR (CDCl3, 400 MHz): δ=7.38 (s, 1H), 7.45-7.56 (m, 3H), 7.76-7.79 (dd, 1H, J=1.6 & 8.4 Hz), 7.86-7.91 (m, 2H), 7.98 (s, 1H), 8.15-8.18 (m, 2H), 8.25-8.27 (d, 1H, J=8.8 Hz), 8.34 (d, 1H, J=2.0 Hz). MS (ES+): 356.2 [MH+]. HPLC: tR=4.3 min (MicromassZQ, polar—15 min).

reactant | 5-(2-phenylquinolin-7-yl)-thieno[2,3-d]pyrimidin-4-ylamine | C1(=CC=CC=C1)C1=NC2=CC(=CC=C2C=C1)C1=CSC=2N=CN=C(C21)N | C21H14N4S
reactant | 1-(2-phenylquinolin-7-yl)-ethanone | C1(=CC=CC=C1)C1=NC2=CC(=CC=C2C=C1)C(C)=O | C17H13NO
reactant | ethyl cyanoacetate | C(#N)CC(=O)OCC | C5H7NO2
product | 5-(2-Phenylquinolin-7-yl)-3H-thieno[2,3-d]pyrimidin-4-one | C1(=CC=CC=C1)C1=NC2=CC(=CC=C2C=C1)C1=CSC=2N=CNC(C21)=O | C21H13N3OS
